US05977105
b) (2R)-2-(Benzoyloxy)-4-(3-pyridyl)-1-butanol
Solid 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.01 g) was added to a stirring solution of (2R)-1-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-2-butanol (1.97 g), benzoic acid (1.28 g) and 4-dimethylaminopyridine (0.85 g) in dichloromethane (50 ml) and the resulting solution stirred at room temperature for 20 hours. The solution was then concentrated under reduced pressure and the residue dissolved in acetonitrile (30 ml). Aqueous hydrofluoric acid (40%, 3 ml) was added and the mixture stirred for 30 minutes before being poured into saturated aqueous sodium bicarbonate solution (200 ml). The mixture was extracted with ethyl acetate, the combined extracts dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate to give the sub-title compound as a solid (1.8 g).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.01 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-1-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-2-butanol | 1.97 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCC=1C=NC=CC1)O | C15H27NO2Si
reactant | benzoic acid | 1.28 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
catalyst | 4-dimethylaminopyridine | 0.85 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2R)-2-(Benzoyloxy)-4-(3-pyridyl)-1-butanol | 1.8 g | C(C1=CC=CC=C1)(=O)O[C@@H](CO)CCC=1C=NC=CC1 | C16H17NO3
